US05310737
Step A: N-(t-Butoxycarbonyl)piperidine-4-carboxylic acid
To a suspension of 1.0 g (7.74 mmol) of piperidine-4-carboxylic acid in 20 mL of methylene chloride at room temperature was added 1.13 mL of triethylamine (0.82 g, 8.1 mmol, 1.05 eq) followed by 1.87 mL of di-t-butyl-dicarbonate (1.77 g, 8.1 mmol, 1.05 eq). The mixture was stirred at room temperature for 48 hours then concentrated under vacuum. The residue was redissolved in ethyl acetate and the solution washed with 5% citric acid and brine, then dried over magnesium sulfate, filtered and evaporated under vacuum to afford 1.75 g (7.63 mmol, 98%) of the product. 1H NMR (200 MHz, CD3OD): 1.42 (s,9H), 1.50 (m,2H), 1.84 (m,2H), 2.46 (m,1H), 2.86 (t,9 Hz, 2H), 3.91 (t,3 Hz, 1H), 3.98 (t,3 Hz, 1H). FAB-MS: calculated for C11H19NO4 229; found 230 (M+H,17%).

reactant | piperidine-4-carboxylic acid | 7.74 mmol, 1.0 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | triethylamine | 8.1 mmol, 1.13 mL, 0.82 g, 1.05 eq | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl-dicarbonate | 8.1 mmol, 1.87 mL, 1.77 g, 1.05 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonyl)piperidine-4-carboxylic acid | 7.63 mmol, 1.75 g, 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
